US06660753B2
To a mixture of 2 M trimethylaluminum (0.45 mL, 0.9 mmole, toluene) with toluene (1 mL) at 10° C., trimethylsilyl azide (0.119 mL, 0.9 mmole) was added, followed by the addition of 5-(3-cyano-5-fluorophenyl)-3-(5-fluoro-pyrid-2-yl)-1,2,4-oxadiazole. The reaction was heated at 80° C. for 2 hours and then quenched with 6 N hydrochloride (2 mL) and solid was collected by filtration. The product was recrystallized with dimethylformamide to give 59 mg (36%) of 3-(5-fluoro-pyrid-2-yl)-5-[3-fluoro-5-(1H-tetraazol-5-yl)-phenyl]-1,2,4-oxadiazole. 1H-NMR (DMSO-d 6), δ (ppm): 8.83 (d, 1H), 8.70 (s, 1H), 8.31 (m, 1H), 8.10 (m, 2H), 8.04 (dt, 1H).

reactant | trimethylaluminum | 0.9 mmole, 2 M, 0.45 mL | C[Al](C)C
reactant | trimethylsilyl azide | 0.9 mmole, 0.119 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | 5-(3-cyano-5-fluorophenyl)-3-(5-fluoro-pyrid-2-yl)-1,2,4-oxadiazole | C(#N)C=1C=C(C=C(C1)F)C1=NC(=NO1)C1=NC=C(C=C1)F | C14H6F2N4O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(5-fluoro-pyrid-2-yl)-5-[3-fluoro-5-(1H-tetraazol-5-yl)-phenyl]-1,2,4-oxadiazole | 59 mg, 36% | FC=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)C1=NN=NN1)F | C14H7F2N7O
